US07157577B2
3-Acetyl-4-oxo-pentanoic acid ethyl ester (710 g, 3.81 mol), 533 mL of acetic acid and 847 g (4.00 mol) of diethyl aminomalonate hydrochloride salt were heated in an oil bath while 344 g (4.19 mol) of sodium acetate were slowly added. The internal temperature at the end of the addition was 55° C. and the mixture was thick with solids but could be stirred. The mixture was heated to 105° C. Gas evolution was vigorous. The temperature was allowed to fall to 98° C. and the reaction was stirred at this temperature for 30 minutes. Thin layer chromatography (ethyl acetate:hexane 1:2) showed the product at Rf 0.6 and a small impurity at Rf 0.7. The reaction was cooled to 50° C. and 1000 mL of ethanol and 1000 mL of water were added with stirring. The mixture was cooled in an ice bath and 3000 mL of ice water were added with stirring. The solids were collected by vacuum filtration and washed two times with 500 mL of 30% ethanol in water each time. The solids were air dried to give 870 g (93% yield) of 4-ethoxycarbonylmethyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester. 1H-NMR (dimethylsulfoxide-d6) δ 1.15, 1.26 (2×t, 2×3H, 2×CH3), 2.15 (2×s, 2×3H, 2×CH3), 3.32 (s, 2H, CH2), 4.01, 4.18 (2×d, 2×2H, 2×CH2O), 11.20 (br s, 1H, NH). MS m/z 254 [M+1].

reactant | 3-Acetyl-4-oxo-pentanoic acid ethyl ester | 3.81 mol, 710 g | C(C)OC(CC(C(C)=O)C(C)=O)=O | C9H14O4
reactant | acetic acid | 533 mL | C(C)(=O)O | C2H4O2
reactant | diethyl aminomalonate hydrochloride salt | 4.00 mol, 847 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | sodium acetate | 4.19 mol, 344 g | C(C)(=O)[O-].[Na+]
solvent | water | 1000 mL | O | H2O
solvent | ethanol | 1000 mL | C(C)O | C2H6O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-ethoxycarbonylmethyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | 870 g, 93% yield | C(C)OC(=O)C=1NC(=C(C1C)CC(=O)OCC)C | C13H19NO4
